### PR TITLE
[Merged by Bors] - feat(Algebra/Order/Hom): add lemmas about order and `MonoidHomClass`

### PR DESCRIPTION
**Pull request by martinwintermath**
Add

* `map_inv_le_map_inv_iff_map_le_map` (and additive version) proving `f x⁻¹ ≤ g x⁻¹ ↔ g x ≤ f x` in a setting where inverses only exists in the domain of `f` and `g`.
* `MonoidHom.ext_iff_le` (and additive version) proving `f = g ↔ (∀ x, f x ≤ g x)`, i.e. an ordered analogue of function extensionality.

---

[#**mathlib4>Location for theorems about monoid homs, order and negation**](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Location.20for.20theorems.20about.20monoid.20homs.2C.20order.20and.20negation/)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Hom/Monoid.lean [hunk 1]
```diff
@@ -175,6 +175,31 @@ instance [EquivLike F α β] [OrderIsoClass F α β] [MulEquivClass F α β] : C
...
+@[to_additive]
+theorem inv_le_iff_le [LE β] [MulRightMono β] [MulLeftMono β] {f g : F} {x : α} :
+    f x⁻¹ ≤ g x⁻¹ ↔ g x ≤ f x := by
+  suffices h : ∀ (f g : F) (x), f x⁻¹ ≤ g x⁻¹ → g x ≤ f x from
+    ⟨h f g x, by simpa using h g f x⁻¹⟩
+  exact fun f g x hfg => calc
+    g x = f (x * x⁻¹) * g x     := by simp
+      _ = f x * (f x⁻¹ * g x)   := by rw [map_mul, mul_assoc]
+      _ ≤ f x * (g x⁻¹ * g x)   := by gcongr
+      _ = f x                   := by simp [← map_mul]
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Hom/Monoid.lean]:
```suggestion
  exact fun f g x hfg ↦ calc
    _ = f x * (f x⁻¹ * g x) := by simp [← mul_assoc, ← map_mul]
    _ ≤ f x * (g x⁻¹ * g x) := by gcongr
    _ = f x                 := by simp [← map_mul]
```

File: Mathlib/Algebra/Order/Hom/Monoid.lean [hunk 2]
```diff
@@ -175,6 +175,31 @@ instance [EquivLike F α β] [OrderIsoClass F α β] [MulEquivClass F α β] : C
 
 end Monoid
 
+section MonoidHomClass
+
+variable [Group α] [Monoid β]
+variable {F : Type*} [FunLike F α β] [MonoidHomClass F α β]
+
+@[to_additive]
+theorem inv_le_iff_le [LE β] [MulRightMono β] [MulLeftMono β] {f g : F} {x : α} :
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Hom/Monoid.lean]: I think this would be a better name?
```suggestion
theorem map_inv_le_map_inv_iff_map_le_map [LE β] [MulRightMono β] [MulLeftMono β] {f g : F} {x : α} :
```

File: Mathlib/Algebra/Order/Hom/Monoid.lean [hunk 3]
```diff
@@ -175,6 +175,31 @@ instance [EquivLike F α β] [OrderIsoClass F α β] [MulEquivClass F α β] : C
...
+  suffices h : ∀ (f g : F) (x), f x⁻¹ ≤ g x⁻¹ → g x ≤ f x from
+    ⟨h f g x, by simpa using h g f x⁻¹⟩
+  exact fun f g x hfg => calc
+    g x = f (x * x⁻¹) * g x     := by simp
+      _ = f x * (f x⁻¹ * g x)   := by rw [map_mul, mul_assoc]
+      _ ≤ f x * (g x⁻¹ * g x)   := by gcongr
+      _ = f x                   := by simp [← map_mul]
+
+@[to_additive forall_le_iff_eq]
+theorem forall_le_iff_eq' [PartialOrder β] [MulRightMono β] [MulLeftMono β] {f g : F} :
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Hom/Monoid.lean]: Maybe `MonoidHom.ext_iff_le`? (and should be flipped, i.e., `f = g ↔ ...`)

**Comment by SnirBroshi** [comment]
Related [Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Location.20for.20theorems.20about.20monoid.20homs.2C.20order.20and.20negation/with/584967133)

File: Mathlib/Algebra/Order/Hom/Monoid.lean [hunk 4]
```diff
@@ -175,6 +175,30 @@ instance [EquivLike F α β] [OrderIsoClass F α β] [MulEquivClass F α β] : C
...
+    _ = f x * (f x⁻¹ * g x) := by simp [← mul_assoc, ← map_mul]
+    _ ≤ f x * (g x⁻¹ * g x) := by gcongr
+    _ = f x                 := by simp [← map_mul]
+
+@[to_additive]
+theorem MonoidHom.ext_iff_le [PartialOrder β] [MulRightMono β] [MulLeftMono β] {f g : F} :
+    f = g ↔ ∀ x, f x ≤ g x where
+  mp := by simp +contextual
+  mpr h := DFunLike.ext f g
+    fun x => le_antisymm (h x) (map_inv_le_map_inv_iff_map_le_map.mp <| h x⁻¹)
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Hom/Monoid.lean]:
```suggestion
    fun x ↦ le_antisymm (h x) (map_inv_le_map_inv_iff_map_le_map.mp <| h x⁻¹)
```

File: Mathlib/Algebra/Order/Hom/Monoid.lean [hunk 5]
```diff
@@ -175,6 +175,30 @@ instance [EquivLike F α β] [OrderIsoClass F α β] [MulEquivClass F α β] : C
...
+    {f g : F} {x : α} : f x⁻¹ ≤ g x⁻¹ ↔ g x ≤ f x := by
+  suffices h : ∀ (f g : F) (x), f x⁻¹ ≤ g x⁻¹ → g x ≤ f x from
+    ⟨h f g x, by simpa using h g f x⁻¹⟩
+  exact fun f g x hfg ↦ calc
+    _ = f x * (f x⁻¹ * g x) := by simp [← mul_assoc, ← map_mul]
+    _ ≤ f x * (g x⁻¹ * g x) := by gcongr
+    _ = f x                 := by simp [← map_mul]
+
+@[to_additive]
+theorem MonoidHom.ext_iff_le [PartialOrder β] [MulRightMono β] [MulLeftMono β] {f g : F} :
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Hom/Monoid.lean]: Thanks! Just one comment.

I think `MonoidHomClass` might be better here? Or maybe there's a better suggestion for the name?

maintainer delegate?

```suggestion
theorem MonoidHomClass.ext_iff_le [PartialOrder β] [MulRightMono β] [MulLeftMono β] {f g : F} :
```

**Review by Vierkantor — APPROVED** [review]
Thanks! I needed to think for a moment that `MonoidHomClass` is indeed the minimum assumption required on `F` to make the proof work, but it is indeed necessary.

bors r+
